data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_182331_2,[C:1](/[C:2]([N:3]([H:9])[H:10])=[C:4](/[O:6][H:8])[H:13])([O:5][H:7])([H:11])[H:12]>>[C:1](=[C:2](\[N:3]([H:9])[H:10])[C:4]([O:6][H:8])([H:12])[H:13])(\[O:5][H:7])[H:11],63.42707250001695
MR_307531_0,[C:1](/[C:5](=[C:3](/[C:2]([O:6][H:8])=[O:7])[N:4]([H:9])[H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:5]1([H:11])[C:3]([N:4]([H:9])[H:10])=[C:2]([O:6][H:8])[O:7]1)([H:12])([H:13])[H:14],66.00672499999575
MR_69680_2,[C:1]1([O:4][H:7])([O:5][H:8])[C:2]([O:6][H:9])([H:10])[C:3]1([H:11])[H:12]>>[C:1]([C:2](=[C:3]([H:11])[H:12])[H:10])([O:4][H:7])([O:5][H:8])[O:6][H:9],45.52386999998959
MR_108442_1,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])(/[C:5]([C:4]([H:18])([H:19])[H:20])=[C:6](\[O:8][H:10])[H:11])[O:7][H:9]>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])=[C:5]([C:4]([H:18])([H:19])[H:20])[C:6]([O:7][H:9])([O:8][H:10])[H:11],58.7804350000134
MR_650129_0,[C:1]1([C:2]([H:11])([H:12])[H:13])([C:5]([N:4]([C:3]([H:14])([H:15])[H:16])[H:9])=[O:8])[C:6]([H:10])=[N:7]1>>[C:1]1([C:2]([H:11])([H:12])[H:13])=[C:6]([H:10])[N:7]1[C:5]([N:4]([C:3]([H:14])([H:15])[H:16])[H:9])=[O:8],69.22203500001046
MR_592361_1,[C@:1](/[C:3]([C:2]([H:14])([H:15])[H:16])=[N:7]/[N:4]([H:11])[H:12])([C:5](=[O:8])[H:13])([O:6][H:9])[H:10]>>[C:1](=[C:3](\[C:2]([H:14])([H:15])[H:16])[N:7]([N:4]([H:11])[H:12])[C:5](=[O:8])[H:13])(\[O:6][H:9])[H:10],50.09834499999698
MR_652851_1,[C:1]([C:2]1([C:6]([H:20])([H:21])[H:22])[C:3]([H:13])([H:14])[C:4]1([H:15])[H:16])([C:5]([H:17])([H:18])[H:19])([O:8][N:7]([H:11])[H:12])[O:9][H:10]>>[C:1](=[C:2](/[C:3]([C:4]([O:8][N:7]([H:11])[H:12])([H:15])[H:16])([H:13])[H:14])[C:6]([H:20])([H:21])[H:22])(\[C:5]([H:17])([H:18])[H:19])[O:9][H:10],67.90491249998297
MR_150320_1,[N:1](=[N:5]/[C:2]1([H:8])[C:3]([H:6])([H:9])[C:4]1([H:10])[H:11])\[H:7]>>[N:1](/[N:5]=[C:2](\[C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])([H:6])[H:7],48.3388349999985
MR_348695_1,[C:1]([C:4]([C:2]([H:16])([H:17])[H:18])=[C:3](/[C:6](=[C:5](\[O:8][H:10])[H:11])[H:12])[O:7][H:9])([H:13])([H:14])[H:15]>>[C:1]([C:4]1([C:2]([H:16])([H:17])[H:18])[C:3]([O:7][H:9])=[C:6]([H:12])[C:5]1([O:8][H:10])[H:11])([H:13])([H:14])[H:15],48.22086500002882
MR_378344_1,[C:1]([N:4]([C:2]([H:14])([H:15])[H:16])[H:11])(/[C:5](=[C:6](\[C:3]([H:17])([H:18])[H:19])[O:8][H:10])[O:7][H:9])([H:12])[H:13]>>[C:1](=[C:5]([C@:6]([C:3]([H:17])([H:18])[H:19])([N:4]([C:2]([H:14])([H:15])[H:16])[H:11])[O:8][H:10])[O:7][H:9])([H:12])[H:13],71.07441499997066
MR_376932_1,[C:1]1([N:3]([H:9])[H:10])=[N:6][O:8][C:2]1([N:4]([H:11])[H:12])/[C:5](=[N:7]/[H:13])[H:14]>>[C:1](=[C:2]([N:4]([H:11])[H:12])/[C:5](=[N:7]/[H:13])[H:14])(\[N:3]([H:9])[H:10])[N:6]=[O:8],9.930187500004166
MR_432015_1,[C:1]([C:3]([H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])([C:5]([H:22])([H:23])[H:24])[C:7]1([N:6]([N:8]([H:14])[H:15])[H:12])[C:2]([O:9][H:11])([H:13])[O:10]1>>[C:1]([C:2]([C:7]([N:6]([N:8]([H:14])[H:15])[H:12])=[O:10])([O:9][H:11])[H:13])([C:3]([H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])[C:5]([H:22])([H:23])[H:24],26.5809000000192
MR_241901_1,[C:1]([C:2]([O:7][H:10])=[O:9])([N:4]([H:13])[H:14])(/[C:6](=[C:3](\[N:5]([H:15])[H:16])[O:8][H:11])[H:17])[H:12]>>[C:1](\[N:4]([H:13])[H:14])(=[C:6](\[C:3]([C:2]([O:7][H:10])=[O:9])([N:5]([H:15])[H:16])[O:8][H:11])[H:17])[H:12],69.30360999998285
MR_572633_0,[C:1]([C:4]([H:21])([H:22])[H:23])([N:5]([C:2]([H:15])([H:16])[H:17])[C:3]([H:18])([H:19])[H:20])(/[C:7](=[C:8](\[N:6]([H:11])[H:12])[H:14])[H:13])[O:9][H:10]>>[C:1](\[C:4]([H:21])([H:22])[H:23])(=[C:7](/[C:8]([N:5]([C:2]([H:15])([H:16])[H:17])[C:3]([H:18])([H:19])[H:20])([N:6]([H:11])[H:12])[H:14])[H:13])[O:9][H:10],59.91181750001047
MR_55317_1,[C:1]([C:2]([N:8]([H:11])[H:12])([H:15])[H:16])([C:5](=[C:6]([C:3]([H:17])([H:18])[H:20])[C:4]([H:19])([H:21])[H:22])[N:7]([H:9])[H:10])([H:13])[H:14]>>[C:1]1([H:13])([H:14])[C@@:2]([N:8]([H:11])[H:12])([H:15])[C@@:5]1([C:6]([C:3]([H:17])([H:18])[H:20])([C:4]([H:19])([H:21])[H:22])[H:16])[N:7]([H:9])[H:10],72.03888249996112
MR_594009_1,[C:1](/[C:3](=[C:2](\[N:4]([H:9])[H:10])[N:6]=[O:7])[O:5][H:8])([H:11])([H:12])[H:13]>>[C:1]([C:3]1([O:5][H:8])[C:2]([N:4]([H:9])[H:10])=[N:6][O:7]1)([H:11])([H:12])[H:13],34.90029499998826
MR_606780_1,[C:1]([N:3]([H:13])[H:14])([C:4](=[C:2]([O:7][H:11])[O:8][H:12])[H:15])([O:5][H:9])[O:6][H:10]>>[C:1](\[N:3]([H:13])[H:14])(=[C:4](/[C:2]([O:6][H:10])([O:7][H:11])[O:8][H:12])[H:15])[O:5][H:9],36.3115425000278
MR_668532_0,[C:1]([C:2](/[C:7](=[C:4](/[C:3]([H:18])([H:19])[H:20])[N:6]([H:11])[H:12])[H:17])([H:15])[H:16])([O:8][N:5]([H:9])[H:10])([H:13])[H:14]>>[C:1]1([H:13])([H:14])[C:2]([H:15])([H:16])[C:7]1([C@@:4]([C:3]([H:18])([H:19])[H:20])([N:6]([H:11])[H:12])[O:8][N:5]([H:9])[H:10])[H:17],69.14108750000082
